US07253286B2
4-Chloro-3-phenylpyridine (200 mg, 1.06 mM), paranitrophenol (440 mg, 3.18 mM), Hunig's base (isoPr2EtN, diisopropylethylamine, 1 ml) and 1-methylpyrrolidone (2 ml) were stirred at 160° C. for 2 hours. Water was added, extraction was performed with ethyl acetate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethylacetate=4:1, and then 2:1) to obtain 4-(4-nitrophenoxy)-3-phenylpyridine (150 mg) as a light yellow oil.

reactant | 4-Chloro-3-phenylpyridine | 1.06 mM, 200 mg | ClC1=C(C=NC=C1)C1=CC=CC=C1 | C11H8ClN
reactant | paranitrophenol | 3.18 mM, 440 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | Hunig's base | 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 4-(4-nitrophenoxy)-3-phenylpyridine | 150 mg | [N+](=O)([O-])C1=CC=C(OC2=C(C=NC=C2)C2=CC=CC=C2)C=C1 | C17H12N2O3
